US05856325
1,2,4-Benzotriazine-3-amine
A mixture of 8.1 g (49 mmol) 1,2,4-benzotriazine-3-amine 1-oxide, 8.1 g sodium dithionite and 800 ml 70 percent ethanol is heated under reflux for 1 h. One filters hot, evaporates the filtrate, washes the residue with water and dries. There remain 7.0 g 1,2,4-benzotriazine-3-amine (98% of theory) of the m.p. 208°-210° C.

reactant | 1,2,4-benzotriazine-3-amine 1-oxide | 49 mmol, 8.1 g | [N+]1(=NC(=NC2=C1C=CC=C2)N)[O-] | C7H6N4O
reactant | sodium dithionite | 8.1 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 1,2,4-Benzotriazine-3-amine | N1=NC(=NC2=C1C=CC=C2)N | C7H6N4
